US06989462B2
Synthesis of 2-methoxyethyl 2-chloromethyl-6-methylbenzoate
10.4 g of 2-methoxyethyl 2,6-dimethylbenzoate are admixed at room temperature with 5.4 g of sulfuryl chloride and 40 mg of AIBN. The mixture is stirred at 60–90° C. for 1–2 h. Afterwards, the mixture is admixed with 20 ml of water, the phases are separated and the organic phase is dried over magnesium sulfate. The product is distilled under high vacuum (0.02 mbar, 95–103° C.). Yield: 6.4 g (66% of theory; 91.8 area %).

reactant | 2-methoxyethyl 2,6-dimethylbenzoate | 10.4 g | CC1=C(C(=O)OCCOC)C(=CC=C1)C | C12H16O3
reactant | sulfuryl chloride | 5.4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | AIBN | 40 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | water | 20 ml | O | H2O
product | 2-methoxyethyl 2-chloromethyl-6-methylbenzoate | ClCC1=C(C(=O)OCCOC)C(=CC=C1)C | C12H15ClO3
